US07307075B2
6-tert-Butyl-4-(3-chloropropyl)-4H-benzo[1,4]oxazin-3-one (81MF2248b)
6-tert-Butyl-4H-benzo[1,4]oxazin-3-one (81MF2248a) (2.07 g, 10.0 mmol), Cs2CO3 (4.88 g, 15.0 mmol) and 3-chloro-1-iodopropane (2.25 g, 11.0 mmol) were mixed according to GP6. CC (SiO2; Heptane/EtOAc 10:1-5) to give the title compound (81MF2248b) (1.39 g, 49%). 1H NMR (CDCl3) δ 7.12 (d, J=2.0 Hz, 1H), 7.03 (dd, J=8.4 Hz, J=2.0 Hz, 1H), 6.92 (d, J=8.4 Hz, 1H), 4.54 (s, 2H), 4.14 (t, J=7.2 Hz, 2H), 3.65 (t, J=6.0 Hz, 2H), 2.21-2.14 (m, 2H), 1.32 (s, 9H); 13C NMR (CDCl3) δ 164.8, 146.4, 143.1, 127.9, 120.9, 116.7, 112.2, 67.8, 42.6, 38.9, 34.8, 31.6, 30.2.

reactant | 6-tert-Butyl-4H-benzo[1,4]oxazin-3-one | 10.0 mmol, 2.07 g | C(C)(C)(C)C=1C=CC2=C(NC(CO2)=O)C1 | C12H15NO2
reactant | Cs2CO3 | 15.0 mmol, 4.88 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-chloro-1-iodopropane | 11.0 mmol, 2.25 g | ClCCCI | C3H6ClI
solvent | Heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 6-tert-Butyl-4-(3-chloropropyl)-4H-benzo[1,4]oxazin-3-one | 1.39 g, 49% | C(C)(C)(C)C=1C=CC2=C(N(C(CO2)=O)CCCCl)C1 | C15H20ClNO2
